US09388189B2
b) N-(2-Ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide
N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide (211 mg, 0.51 mmol), bis(pinacolato)diboron (210 mg, 1.60 mmol), potassium acetate (172 mg, 1.75 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (45 mg, 0.06 mmol) were suspended in dioxane (7 ml) and stirred overnight at 90° C. After filtration of the reaction mixture through Celite® and evaporation of the solvent under reduced pressure, the resulting crude was purified by flash chromatography using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to obtain 116 mg (36% yield) of the title compound. Purity: 67%

reactant | N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide | 0.51 mmol, 211 mg | BrC=1C=C(C(=NC1)OCC)NS(=O)(=O)C1=CC=C(C=C1)O | C13H13BrN2O4S
reactant | bis(pinacolato)diboron | 1.60 mmol, 210 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.75 mmol, 172 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | N-(2-Ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide | 116 mg, 36% yield | C(C)OC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)O)B1OC(C(O1)(C)C)(C)C | C19H25BN2O6S
